US08084481B2
Step a): Preparation of N-(2-fluorobenzyl)-2-formylhydrazinecarboxamide
Under argon, 1.99 g (33 mmol) of formylhydrazine are placed in 80 ml THF. The solution is heated to 50° C., treated dropwise with a solution of 5.00 g (33 mmol) of 2-fluorobenzyl isocyanate in 50 ml THF and the resulting mixture stirred for 30 mins more at 50° C. It is then freed of solvent on the rotary evaporator. The residue is stirred with diethyl ether, the precipitate suction-filtered, then washed with diethyl ether and the white solid dried under high vacuum. 5.73 g (82% of theory) of the target product are obtained.

reactant | formylhydrazine | 33 mmol, 1.99 g | C(=O)NN | CH4N2O
reactant | 2-fluorobenzyl isocyanate | 33 mmol, 5.00 g | FC1=C(CN=C=O)C=CC=C1 | C8H6FNO
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-(2-fluorobenzyl)-2-formylhydrazinecarboxamide | FC1=C(CNC(=O)NNC=O)C=CC=C1 | C9H10FN3O2
